US08309580B2
(4) 4-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}tetrahydro-2H-pyran
To a solution of cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methanol (737 mg) synthesized above in toluene (10 mL) was added thionyl chloride (209 μL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into ice-cooled saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (725 mg, 93%) as a pale-yellow oil.

reactant | cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methanol | 737 mg | C1(CCCCC1)C(O)C1=C(SC(=C1)C1CCOCC1)CC | C18H28O2S
reactant | thionyl chloride | 209 μL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{4-[chloro(cyclohexyl)methyl]-5-ethylthiophen-2-yl}tetrahydro-2H-pyran | 725 mg, 93% | ClC(C=1C=C(SC1CC)C1CCOCC1)C1CCCCC1 | C18H27ClOS
